US07569578B2
(±)-1-(6-Isobutylpyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
A microwave tube was charged with (±)-1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (13.9 mg, 0.0229 mmol, 1.0 equiv) and Pd(PPh3)4 (ca. 2 mg). Isobutylzinc bromide (0.5 M in tetrahydrofuran, 0.46 mL, 0.23 mmol, 10 equiv) was then added via syringe under nitrogen. The vial was sealed and heated by microwave at 110° C. for 4 h. Tetrahydrofuran was removed in vacuo and the residue was partitioned between ethyl acetate and 0.5 N sodium hydroxide solution. The organic layer was separated and washed with brine, dried and concentrated. Flash column chromatography 10% methanol/methylene chloride) afforded the desired product (9.8 mg, 73.3%) as a glassy solid. MS (ESI) [M+H]+=585. 1H-NMR (400 MHz, CDCl3) δ 7.94 (s, 1H), 7.60-7.28 (m, 2H), 7.15-6.68 (m, 7H), 6.01 (br., 1H), 4.60-4.40 (m, 1H), 4.40-4.15 (m, 2H), 4.15-3.90 (m, 1H), 3.85-3.15 (m, 2H), 3.03-2.60 (m, 4H), 2.70 (s, 3H), 2.20-2.02 (m, 1H), 1.82-1.40 (m, 4H), 1.40-1.12 (m, 2H), 1.00-0.90 (m, 6H). HPLC tR=1.44 min.

reactant | (±)-1-(6-bromopyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.0229 mmol, 13.9 mg, 1.0 equiv | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC(=CC=C1)Br | C29H28BrFN6O3
reactant | Isobutylzinc bromide | 0.23 mmol, 0.5 M, 0.46 mL, 10 equiv | [Br-].C(C(C)C)[Zn+]
catalyst | Pd(PPh3)4 | ca. 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-1-(6-Isobutylpyridin-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl 4-(8-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 9.8 mg, 73.3% | FC=1C=CC=C2CN(C(NC12)=O)C1CCN(CC1)C(=O)OC(CC=1C=C2C=NNC2=C(C1)C)C1=NC(=CC=C1)CC(C)C | C33H37FN6O3
